US03984460
Methyl 3-(2,3-dimethyl-5-tert.-octyl-4-hydroxyphenyl)propionate
The product was obtained by reacting 2,3-dimethyl-6-(1,1,3,3-tetramethylbutyl)phenol with methyl acrylate in a similar manner as described in Example 1. The desired product was obtained as white crystals melting at 83° to 85°C (Compound 2).

reactant | 2,3-dimethyl-6-(1,1,3,3-tetramethylbutyl)phenol | CC1=C(C(=CC=C1C)C(CC(C)(C)C)(C)C)O | C16H26O
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | Methyl 3-(2,3-dimethyl-5-tert.-octyl-4-hydroxyphenyl)propionate | CC1=C(C=C(C(=C1C)O)C(C)(C)CC(C)(C)C)CCC(=O)OC | C20H32O3
